US07468375B2
rac 1-(2,4-difluorobenzyl)-N-hydroxy-N-methyl-3-{[(3aR*,7aS*)-1-oxooctahydro-5H-pyrrolo[3,4-c]pyridin-5-yl]methyl}-1H-pyrrolo[2,3-c]pyridine-5-carboxamide
The title compound was prepared from rac-1-(2,4-difluorobenzyl)-3-{[(3aR*,7aS*)-1-oxooctahydro-5H-pyrrolo[3,4-c]pyridin-5-yl]methyl}-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid and N-methylhydroxylamine hydrochloride in a manner similar to step 2 of example 17. 1H NMR (MeOH-d4) δ ppm 8.80 (s, 1H), 8.28 (b, 1H), 7.72 (s, 1H), 7.32-7.31 (m, 1H), 7.05-7.02 (m, 1H), 7.00-6.93 (m, 1H), 5.59 (s, 2H), 3.88 (s, 2H), 3.42 (s, 3H), 3.28-3.26 (m, 2H), 2.98-2.96 (m, 1H), 2.83-2.80 (m, 1H), 2.58-2.56 (m, 1H), 2.48-2.44 (m, 2H), 2.27-2.25 (m, 1H), 1.85-1.82 (m, 1H), 1.63-1.59 (m, 1H). LCMS (APCI, M+H+): 470.15. HPLC: 96% purity.

reactant | rac-1-(2,4-difluorobenzyl)-3-{[(3aR*,7aS*)-1-oxooctahydro-5H-pyrrolo[3,4-c]pyridin-5-yl]methyl}-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid | FC1=C(CN2C=C(C=3C2=CN=C(C3)C(=O)O)CN3C[C@@H]2[C@H](CC3)C(NC2)=O)C=CC(=C1)F | C23H22F2N4O3
reactant | N-methylhydroxylamine hydrochloride | Cl.CNO
product | rac 1-(2,4-difluorobenzyl)-N-hydroxy-N-methyl-3-{[(3aR*,7aS*)-1-oxooctahydro-5H-pyrrolo[3,4-c]pyridin-5-yl]methyl}-1H-pyrrolo[2,3-c]pyridine-5-carboxamide | FC1=C(CN2C=C(C=3C2=CN=C(C3)C(=O)N(C)O)CN3C[C@@H]2[C@H](CC3)C(NC2)=O)C=CC(=C1)F | C24H25F2N5O3
